US06803457B1
4-Methyl-[1,2,3]thiadiazole-5-carboxylic acid methyl ester
4-Methyl-[1,2,3]thiadiazole-5-carboxylic acid (1.0 g, 6.94 mmol), concentrated H2SO4 (866 μL), and methanol (12 mL) were combined and heated to reflux for 15 h. The solvent was reduced by a rotary evaporator and the residue was poured into 15 g of ice. The reaction was neutralized with saturated aqueous NaHCO3. The solution was then extracted with CH2Cl2 (4×35 mL). The combined organics were dried over MgSO4, filtered, and concentrated on the rotary evaporator. The product was preadsorbed onto silica gel and purified by flash chromatography to afford the title compound as a yellow oil.

reactant | 4-Methyl-[1,2,3]thiadiazole-5-carboxylic acid | 6.94 mmol, 1.0 g | CC=1N=NSC1C(=O)O | C4H4N2O2S
reactant | H2SO4 | 866 μL | OS(=O)(=O)O | H2O4S
reactant | methanol | 12 mL | CO | CH4O
product | 4-Methyl-[1,2,3]thiadiazole-5-carboxylic acid methyl ester | COC(=O)C1=C(N=NS1)C | C5H6N2O2S
